US06677337B2
Preparation of 4-(4-fluorophenyl)-5-(2-methylsulfanylpyrimidin-4-yl)-1,2-dihydro-pyrazol-3-one (4):
A solution of 2-(4-fluorophenyl)-3-(2-methylsulfanyl-pyrimidin-4-yl)-3-oxo-propionic acid methyl ester, 3, (1 g, 3.7 mmol), semicarbazide HCl (0.653 g, 5.8 mmol) and pyridine (10 mL) is heated at 90° C. for 12 hours. The solution is then concentrated in vacuo to afford a semi-solid residue which is taken up in methanol and the resulting solid removed by filtration. The filtrate is concentrated in vacuo to afford the desired compound as a white solid, which is used without further purification.

reactant | 2-(4-fluorophenyl)-3-(2-methylsulfanyl-pyrimidin-4-yl)-3-oxo-propionic acid methyl ester | COC(C(C(=O)C1=NC(=NC=C1)SC)C1=CC=C(C=C1)F)=O | C15H13FN2O3S
reactant | semicarbazide HCl | 3.7 mmol, 1 g | Cl.NNC(=O)N
reactant | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | methanol | CO | CH4O
product | 4-(4-fluorophenyl)-5-(2-methylsulfanylpyrimidin-4-yl)-1,2-dihydro-pyrazol-3-one | FC1=CC=C(C=C1)C=1C(NNC1C1=NC(=NC=C1)SC)=O | C14H11FN4OS
